data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2255,2500,[CH3:16][O:17][C:18](=[O:19])[C-:20]([N+:21]#[C:22][C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([O:17][CH3:16])=[O:19])([C:26]([CH3:27])=[O:28])[N:21]=[C:22]2[C:23]([CH3:24])=[O:25],water,298.15,14.48553449038343,-56.68886182423861
2300,2550,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:21]([C:22](=[O:23])[O:24][CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:19]([CH3:20])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,38.73785531484421,-16.093615531477273
3287,3724,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][N-:15][C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])=[N:14][N:15]1[C:16]#[N:17],water,298.15,9.338912352493631,-38.74965278803006
690,750,[CH3:11][C:12]#[N+:13][C-:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]([C:15](=[O:16])[NH:17][CH3:18])([C:19](=[O:20])[O:21][CH3:22])[N:13]=[C:12]2[CH3:11],water,298.15,22.14774767510721,-37.00573745284838
3419,3889,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][N-:8][NH+:9]=[C:10]([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:8]([CH3:7])[NH:9][C:10]1([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,30.22482139763836,-4.279363138176399
1907,2115,[CH3:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:14]([C:12]([CH3:11])=[O:13])([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N:21]([CH3:22])[C:23]3([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,24.17599190902637,-35.50305246684734
345,375,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2.[CH:13]#[N+:14][C-:15]([CH3:16])[C:17](=[O:18])[NH:19][CH3:20]>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:15]([CH3:16])([C:17](=[O:18])[NH:19][CH3:20])[N:14]=[CH:13]2,water,298.15,14.24834580986362,-40.65040757963031
3977,4550,[CH3:9][C:10](=[O:11])[C-:12]([C:13]#[N:14])[N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([C:13]#[N:14])[N:15]=[C:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,17.423873029925787,-27.93433824567213
1710,1892,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2.[N:15]#[C:16][C:17]([C:18]#[N:19])=[O+:20][C-:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:17]([C:16]#[N:15])([C:18]#[N:19])[O:20][C:21]2([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,15.358954419183936,-17.35449119370135
1810,2003,[CH3:13][NH:14][C:15](=[O:16])[C:17]([C:18](=[O:19])[O:20][CH3:21])=[N+:22]([CH3:23])[CH-:24][C:25](=[O:26])[O:27][CH3:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18](=[O:19])[O:20][CH3:21])[N:22]([CH3:23])[CH:24]3[C:25](=[O:26])[O:27][CH3:28],water,298.15,20.488523980472824,-43.224526192043314
322,351,[CH3:13][CH-:14][NH+:15]=[C:16]([CH3:17])[C:18]#[N:19].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:14]([CH3:13])[NH:15][C:16]2([CH3:17])[C:18]#[N:19],water,298.15,15.78020904119266,-21.595191589181084
2992,3344,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]#[N+:8][C-:9]([CH3:10])[C:11]([CH3:12])=[O:13]>>[CH2:1]1[CH2:2][C:9]([CH3:10])([C:11]([CH3:12])=[O:13])[N:8]=[C:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,12.246587081536772,-48.10051063040015
